US06790844B2
The resulting 3-[4-(2-benzyloxyethoxy)-2-methoxyphenyl]isoquinolin-1-one (0.47 g) was added to phosphorus oxychloride (10 ml), and the mixture was reacted at room temperature overnight. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The ethyl acetate layer was washed with water, an aqueous solution of sodium bicarbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting 1-chloro-3-[4-(2-benzyloxyethoxy)-2-methoxyphenyl]isoquinoline was reacted as it was with N-ethylpiperazine (5 ml) in the presence of potassium carbonate (1.2 g) at 120° C. for 24 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by NH-silica gel column chromatography (ethyl acetate/hexane system), to give 1-(4-ethylpiperazin-1-yl)-3-[4-(2-benzyloxyethoxy)-2-methoxyphenyl]isoquinolinehydrochloride (0.11 g) as a yellow powder.

reactant | 3-[4-(2-benzyloxyethoxy)-2-methoxyphenyl]isoquinolin-1-one | 0.47 g | C(C1=CC=CC=C1)OCCOC1=CC(=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O)OC | C25H23NO4
reactant | N-ethylpiperazine | 5 ml | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(2-benzyloxyethoxy)-2-methoxyphenyl]isoquinolinehydrochloride | 0.11 g | Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=C(C=C(C=C1)OCCOCC1=CC=CC=C1)OC | InChI=1S/C31H35N3O3.ClH/c1-3-33-15-17-34(18-16-33)31-27-12-8-7-11-25(27)21-29(32-31)28-14-13-26(22-30(28)35-2)37-20-19-36-23-24-9-5-4-6-10-24;/h4-14,21-22H,3,15-20,23H2,1-2H3;1H
